US04783537
Preparation of N-Methyl-2-(hydroxyphenylmethyl)-5-dimethylamino-2-phenylpentanamide
To N-methyl-5-dimethylamino-2-phenylpentanamide (5.0 g, 0.023 mol) dissolved in 50 ml THF was added 18.1 ml of a 2.5M solution of n-BuLi in n-hexane with ice-cooling under N2. After stirring at 0° C. for 30 min, benzaldehyde (2.4 g, 0.023 mol) dissolved in 10 ml THF was added dropwise to the foregoing solution. The reaction mixture was stirred for 5 min at 0° C. and then poured into ice-cold HCl. The resulting solution was washed with Et2O, basified by adding dilute NaOH while stirring in the cold, and extracted with CHCl3. The CHCl3 extracts were combined, dried (Na2SO4), and evaporated. Chromatography of the post-evaporation residue afforded the desired compound as a mixture of diastereoisomers as an oil. Dissolution in EtOH, acidification with HCl, followed by addition of Et2O gave the hydrochloride salt as a colorless solid. [Anal. Calc'd for C21H28N2O2.HCl1/4EtOH: C, 66.17; H, 7.93; N, 7.18; Cl, 9.08. Found: C, 65.82; H, 8.02; N, 7.04; Cl 10.27.]

reactant | N-methyl-5-dimethylamino-2-phenylpentanamide | 0.023 mol, 5.0 g | CNC(C(CCCN(C)C)C1=CC=CC=C1)=O | C14H22N2O
reactant | n-BuLi | [Li]CCCC
reactant | benzaldehyde | 0.023 mol, 2.4 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-Methyl-2-(hydroxyphenylmethyl)-5-dimethylamino-2-phenylpentanamide | CNC(C(CCCN(C)C)(C1=CC=CC=C1)C(C1=CC=CC=C1)O)=O | C21H28N2O2
